US08664226B2
The N,N-dimethylformamide (1.5 mL) solution of 2-(5-bromofuran-2-yl)-4-(bromomethyl)-5-methyloxazole (32 mg, 0.1 mmol) and sodium acetate (12 g, 0.15 mmol) was stirred at 80° C. overnight. The reaction mixture was added water and extracted with ethyl acetate. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residues were subjected to silica gel column chromatography (hexane/ethyl acetate) to obtain methyl {2-(5-bromofuran-2-yl)-5-methyloxazol-4-yl}acetate as a yellow oil (25 mg, 83%).

reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
reactant | 2-(5-bromofuran-2-yl)-4-(bromomethyl)-5-methyloxazole | 0.1 mmol, 32 mg | BrC1=CC=C(O1)C=1OC(=C(N1)CBr)C | C9H7Br2NO2
reactant | sodium acetate | 0.15 mmol, 12 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | methyl {2-(5-bromofuran-2-yl)-5-methyloxazol-4-yl}acetate | 25 mg, 83% | BrC1=CC=C(O1)C=1OC(=C(N1)CC(=O)OC)C | C11H10BrNO4
